US07211668B2
N-[2-(5-Benzoyl-4-phenyl-thiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-(2-aminoethyl)-glycine ethyl ester 2HCl with 5-benzoyl-4-phenyl-thiazole-2-sulfonyl chloride as per the procedure of example 1. 1H NMR (500 MHz; DMSO-d6) δ 7.46 (d, 2H), 7.36–7.24 (m, 4H), 7.19–7.11 (m, 4H), 4.05 (q, 2H), 3.28 (s, 2H), 3.19 (t, 2H), 2.66 (t, 2H), 1.16 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | Cl.Cl.C(C)OC(CNCCN)=O
reactant | 5-benzoyl-4-phenyl-thiazole-2-sulfonyl chloride | C(C1=CC=CC=C1)(=O)C1=C(N=C(S1)S(=O)(=O)Cl)C1=CC=CC=C1 | C16H10ClNO3S2
product | N-[2-(5-Benzoyl-4-phenyl-thiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=C(N1)C1=CC=CC=C1)C(C1=CC=CC=C1)=O)=O | C22H23N3O5S2
